Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Nitroglycerin
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of nonobstructive hypertrophic cardiomyopathy, 
PAF s/p PVI and PPM placement for sinus node dysfunction, COPD 
on home O2 at night, HTN, HLD, and chronic chest pain presents 
with left sided substernal chest pain, similar to his usual 
chest pain but progressively worsening and x1 week. Pain has 
been intermittent and gradually worsening in intensity and 
duration over last week, woke him up this morning at 1am at 
intensity of ___, associated with nausea and dizziness. His 
usual pain lasts minutes-hours ___, starts at rest 
or with exertion, not worsened by exertion; he does not take 
anything for pain but lies down until pain goes away on its own. 
When pain reaches ___, he presents to the ED, which has been 
happening about every other month. Pain associated with nausea, 
dizziness, and shortness of breath usually when it gets to be 
___. Per patient, he had one catheterization with clean 
coronaries a couple of years ago with no stents placed.  
.  
Patient also believes that his pacer has repeatedly shocked him 
over last couple of days. He does not have an ICD. On further 
questioning, he has intermittent left arm numbness associated 
with mild weakness lasting just seconds. He has taken his 
aspirin and plavix today.  
.  
In the ED, initial vitals were: T 97.4 HR 80 BP 157/101 RR 16 
O2sat100%. He was given morphine 4mg x2 and dilaudid 1mg x1, 
after which patient was chest pain free. He was also given 500cc 
NS in the ED. ECG showed A-V pacing at 80. CXR shows pacer in 
place. Vitals prior to transfer: 98.8 145/91 80 18 99%2L NC.  
.  
On the floor patient is chest pain free without complaints. He 
does not currently have the left arm shooting pain and numbness, 
which typically only lasts for a few seconds, appears to be 
related to positioning of arm.  
.  
On review of systems, he denies fevers, chills recently; denies 
current nausea, chest pain, dizziness, shortness of breath, 
abdominal pain, bowel or bladder symptoms, extremity pain. He 
notes that he sometimes gets shooting pains down his left leg x 
years, associated with his lower back problems.  

 
Past Medical History:
(Per OMR, confirmed with patient)
-hypertrophic nonobstructive cardiomyopathy 
-chest pain syndrome s/p multiple admissions for chest pain
-paroxysmal atrial fibrillation 
       -status post pulmonary vein isolation 
       -status post ___ implantation for sinus node dysfunction
       -dual chamber PPM ___ Sigma ___ ___   
       -status post AV nodal ablation in ___ 
-history of moderate diastolic dysfunction
-Hypertension       
-Dyslipidemia   
-OSA on CPAP at 15 cmH2O/2L/min O2   
-Depression w/ h/o suicidal ideation noted in ___  
    -concern for attempted coumadin overdose in past per OMR 
-Restless leg syndrome  
-Anemia of chronic disease and iron deficiency (last ferritin 22 
in ___
-Leukocytoclastic vasculitis of unclear etiology 
-GERD  
-___- rehab in ___
-L4-S1 disc herniation/radiculopathy s/p laminectomy  
-Hemorrhoids s/p banding ___  
-s/p appendectomy  
-s/p herniorrhaphy  

 
Social History:
___
Family History:
Mother with hypertension, diabetes, and arthritis. Father with 
diabetes and cancer (colon cancer). Cancer in 2 uncles and aunt 
on the paternal side. Brother with diabetes who required a leg 
amputation for complications. Older brother has diabetes. 
Brother with HIV and cancer. Sister with hypertension.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: T= 97.7 BP= 147/98 HR= 80 RR= 20 O2sat= 98% 2LNC  
GENERAL: WDWN pleasant gentleman, in NAD. Oriented x3. Mood, 
affect appropriate.  
HEENT: NCAT. Sclera anicteric, mildly injected. EOMI. oropharynx 
clear, dry mucus membranes  
CARDIAC: Reg Rhythm, normal rate, early systolic murmur loudest 
at LUSB  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, with 
harsh end-expiratory wheezing increased at bases  
ABDOMEN: Soft, nontender, mildly distended, obese.  
EXTREMITIES: No c/c/e. 2+ DP pulse on Left, 1+ DP pulse on Right 
 

DISCHARGE PHYSICAL EXAM
VS: Tm98.3, Tc98.0, BP 120s-140s/80s-100s, P80, RR 18, 96/RA  
GENERAL: WDWN pleasant M, in NAD. AOx3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric, mildly injected. EOMI. oropharynx 
clear, dry mucus membranes  
CARDIAC: RRR, No rubs, nl S1, S2, +S4, Grade II/VI holosystolic 
murmur at apex with no radiation  
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
wheezes, rhonchi, crackles noted.  
ABDOMEN: Soft, nontender, mildly distended, obese.  
EXTREMITIES: No c/c/e. 2+ DP pulse on Left, 1+ DP pulse on 
Right, 2+ radials  

 
Pertinent Results:
ADMISSION LABS AND CARDIAC ENZYMES
___ 02:15AM BLOOD WBC-8.9 RBC-5.12 Hgb-15.4 Hct-43.8 MCV-86 
MCH-30.1 MCHC-35.3* RDW-13.9 Plt ___
___ 02:15AM BLOOD Plt ___
___ 10:20AM BLOOD ___
___ 02:15AM BLOOD Glucose-122* UreaN-16 Creat-1.5* Na-142 
K-3.8 Cl-105 HCO3-26 AnGap-15
___ 02:15AM BLOOD CK(CPK)-168
___ 10:20AM BLOOD CK(CPK)-138
___ 07:10PM BLOOD CK(CPK)-129
___ 02:15AM BLOOD CK-MB-8
___ 02:15AM BLOOD cTropnT-0.05*
___ 10:20AM BLOOD CK-MB-8 cTropnT-0.07*
___ 07:10PM BLOOD CK-MB-7 cTropnT-0.07*
___ 10:20AM BLOOD Cholest-197
___ 07:10AM BLOOD Calcium-9.3 Phos-3.4 Mg-1.9
___ 10:20AM BLOOD Triglyc-289* HDL-35 CHOL/HD-5.6 
LDLcalc-104

CARDIAC PERFUSION STRESS
INTERPRETATION:  
Left ventricular cavity size is moderately to severely enlarged. 

Rest and stress perfusion images reveal a mild, fixed defect at 
the apex. 
  
Gated images reveal reduced global function with an akinetic 
apex. 
The calculated left ventricular ejection fraction is 31%. 
  
Compared with the study of ___, the fixed apical defect is 
more apparent. 
  
IMPRESSION: Mild, fixed defect at the apex with akinesis at the 
apex. Global 
decrease in systolic function with LVEF of 31%. 

STRESS
INTERPRETATION: This ___ year old man with hypertrophic 
cardiomyopathy was referred for noninvasive testing because of 
dyspnea. 
The patient received a dipyridamole infusion at 0.142 mg/kg/min 
for four 
minutes. The patient reported ___ chest pressure beginning at 
0:45 of 
recovery that self resolved by 3:00 of recovery. The ST segments 
are 
uninterpretable for ischemia in the presence of the paced 
rhythm. The 
rhythm was paced, a-v sequential pacing without ectopy. The 
dipyridamole 
was reversed with 125 mg IV aminophyline. 
IMPRESSION: Atypical anginal symptoms with uninterpretable EKG 
for 
ischemia. Nuclear report sent separately. 

ECHOCARDIOGRAM ___
The left atrium is elongated. There is asymmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Regional left ventricular wall motion is normal. Overall 
left ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are structurally normal. There is no 
systolic anterior motion of the mitral valve leaflets. Mild (1+) 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

IMPRESSION: Hypertrophic cardiomyopathy with normal left 
ventricular systolic function. Mild mitral regurgitation.
 
Brief Hospital Course:
Mr. ___ is a ___ M with HCM, CP syndrome with multiple 
admission, PAfib s/p PVI s/p PPM implantation s/p AV nodal 
ablation, HTN, HL, OSA, who p/w chest pain x 1 week here for 
___.  
.  
# Chest pain / CAD  
Patient has chronic chest pain, and presenting CP is similar 
though progressing for past week. Appears to be chronic small 
vessel disease. Troponin mildly elevated at 0.05 but CK and MB 
flat. Patient also has acute renal failure at this time, likely 
accounting for mild trop elevation.  He was monitored on tele, 
had cardiac enzymes x 3 which were significant for troponin of 
0.05--> 0.07 --> 0.07 in the setting of an elevated Cr. We 
continued plavix and aspirin.  He went for stress which was 
largely unchanged from ___ (akinesis of apex with LVEF of 
31%).  As this LVEF was markedly lower than the previous EF we 
had from ECHO (which was 60%), he was sent for cardiac 
catheterization which was negative for any focal occlusions.  A 
repeat ECHO done on the date of discharge showed a LVEF of >55%. 

His chest pain was not able to be controlled on tylenol, and he 
eventually became chest pain free with tramadol.  He was 
discharged with a short course of tramadol to be f/u as an 
outpt.  
.  
# Left arm numbness/shooting pain  
Patient notes that he has shooting pains lasting only seconds, 
associated with numbness down his left arm intermittently with 
after moving around in various positions, unclear which 
positions. He does have chronic back pain associated with 
shooting pains down left leg for many years, so he may also have 
spinal stenosis or arthritis of the cervical spine causing 
similar symptoms in his arm. Appears neuropathic in nature. 
Alternatively, he may have compression of nerve root further 
out. No weakness of muscle, no need for urgent intervention.  We 
felt outpatient evaluation would be best for him.  Pt was 
reassured his pacemaker was not shocking him.
.  
# Acute Renal Failure  
Patient had acute renal failure during previous admission up to 
3.1. He presents today with creatinine 1.5, up from 1.2. He 
appears dry on exam, likely pre-renal etiology. Recently 1.6 on 
___.  We trended his Cr over his admission and hydrated him 
with 2L of NS during his admission.  His Cr returned to 1.1.
.  
# Paroxysmal Atrial Fibrillation  
s/p ablation and pacemaker placement. Patient is A-V paced. 
Patient believes he was switched from warfarin to clopidogrel 
for Afib because he failed warfarin therapy and had presented to 
hospital with very elevated INRs, difficult to control. Per 
previous OMR note, patient may have overdosed on warfarin 
intentionally, though he states now that he did not.  We 
continued his home amiodarone, metoprolol, and verapamil.
.  
# Hypertension  
Patient previously on lisinopril, held starting with last 
hospitalization because of acute renal failure.  In addition to 
continuing his metop and verapamil, we started a 5 mg dose of 
lisinopril as his Cr returned to baseline.
.  
# ?COPD  
Patient doesn't recall having a diagnosis of COPD but it is 
likely because of his strong tobacco history. He notes that he 
was previously on inhalers, unsure which ones, but he never got 
a new prescription and stopped taking them years ago. Harsh 
end-expiratory wheezing today.  We treated him with 
ipratoprium/albuterol nebs and this should be discussed in the 
outpatient setting in terms of his COPD medications.
.  
# Chronic Back Pain with Neuropathic Symptoms  
- continued gabapentin  
.  
# Restless Leg Syndrome  
- continued ropinirole at bedtime  
.  
# Depression  
- continued sertraline  
.  
# GERD  
- continued pantoprazole  
.  
# Smoking cessation: patient counseled about smoking cessation  
- used nicotine patch in house.
.
CODE: Full (confirmed with patient)  
 
Medications on Admission:
1. Ropinirole 0.25 mg Tablet qHS.  
2. Amiodarone 200 mg Tablet daily  
3. Aspirin 325 mg Tablet daily  
4. Ambien 5 mg Tablet QHS  
5. Clopidogrel 75 mg Tablet daily  
6. Gabapentin 300 mg Capsule QAM and 600mg QHS  
7. Lisinopril 20 mg Tablet daily--> STOPPED during last 
hospitalization in setting of Acute Renal Failure  
8. Fenofibrate Micronized 48 mg Tablet daily  
9. Sertraline 50 mg Tablet daily  
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.)daily  
11. Metoprolol Succinate 200 mg Tablet Sustained Release 24 hr 
daily  
12. Verapamil 240 mg Tablet Sustained Release BID  

 
Discharge Medications:
1. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  

4. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO at bedtime. 
 
6. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
8. Verapamil 240 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q24H (every 24 hours).  
9. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
10. Ropinirole 0.25 mg Tablet Sig: One (1) Tablet PO at bedtime. 
 
11. Metoprolol Succinate 200 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
12. Fenofibrate Nanocrystallized 48 mg Tablet Sig: One (1) 
Tablet PO once a day.  
13. Tramadol 50 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for pain for 7 days.
Disp:*21 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your 
hospitalization. You were admitted to ___ with chest pain. We 
also noticed that your creatinine (something we measure to check 
your kidneys) was high. For those reasons, we controlled your 
chest pain with pain medications and also gave you IV fluids to 
help bring the creatinine down. We checked your cardiac enzymes 
which were mildly elevated, thought to be due to your renal 
function, but within normal limits.  Also, we did a stress test 
which showed some decreased movement in the apex of your heart, 
which is similar to the test you had done in ___. We did an 
ECHO on the day you were discharged which looked normal. 
Finally, we did a cardiac catheterization, which showed minimal 
disease in the vessels of your heart.

PLEASE MAKE THE FOLLOWING CHANGES TO YOUR MEDICATIONS:
1) Start taking lisinopril 5 mg by mouth daily

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Please follow up with your physicians as scheduled below.
 
Followup Instructions:
___